US07642264B2
4-{5-[4-(4-Chloro-phenyl)-6-trifluoromethyl-pyrimidin-2-yl]-[1,2,4]oxadiazol-3-yl}-pyridin-2-ylamine
The title compound was prepared from 2-amino-N-hydroxy-pyridine-4-carboxamidine (example C.5) (0.11 g, 0.75 mmol) and 4-(4-chloro-phenyl)-6-trifluoromethyl-pyrimidine-2-carboxylic acid (example D.1) (0.15 g, 0.5 mmol) according to the general procedure V. Obtained as an off-white solid (0.018 g, 9%). MS (ISP) 419.0 [(M+H)+]; mp 223.5° C.

reactant | 2-amino-N-hydroxy-pyridine-4-carboxamidine | 0.75 mmol, 0.11 g | NC1=NC=CC(=C1)C(=N)NO | C6H8N4O
reactant | 4-(4-chloro-phenyl)-6-trifluoromethyl-pyrimidine-2-carboxylic acid | 0.5 mmol, 0.15 g | ClC1=CC=C(C=C1)C1=NC(=NC(=C1)C(F)(F)F)C(=O)O | C12H6ClF3N2O2
product | 4-{5-[4-(4-Chloro-phenyl)-6-trifluoromethyl-pyrimidin-2-yl]-[1,2,4]oxadiazol-3-yl}-pyridin-2-ylamine | ClC1=CC=C(C=C1)C1=NC(=NC(=C1)C(F)(F)F)C1=NC(=NO1)C1=CC(=NC=C1)N | C18H10ClF3N6O
